2181-02-04 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2181-2-3**] 11:46 AM
 DIALYSIS CATHETER - START [**2181-2-3**] 11:52 AM
 BLOOD CULTURED - At [**2181-2-3**] 05:15 PM
   [**2-3**] Events:
   lactate rose and then reduced with fluid resusitation
   CT ab- no evidence of g-tube leak with PO contrast
   HR and pressure resolved with 1L NS bolus
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-2-3**] 08:16 PM
   Piperacillin - [**2181-2-4**] 02:33 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2181-2-3**] 11:46 AM
   Morphine Sulfate - [**2181-2-3**] 11:46 AM
   Pantoprazole (Protonix) - [**2181-2-3**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2181-2-3**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-4**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.6
C (97.8
   HR: 85 (85 - 133) bpm
   BP: 98/59(68) {83/57(64) - 149/91(107)} mmHg
   RR: 21 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,410 mL
                                                                    117 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                    270 mL
                                                                     90 mL
   Urine:
                                                                    270 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,140 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   HD line site benign, no erythema/drainage
   Abdominal: No(t) Soft, No(t) Bowel sounds present, No(t) Distended,
   Tender: , + guarding especially in epigastrium.  Gtube site appears
   benign, no drainage.  Denies pain but appears tender to palpation with
   grimacing.
   Extremities:, Left: 2+ edemat, dry gangrene of RLE toes
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   268 K/uL
   9.5 g/dL
   76 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.8 mEq/L
   44 mg/dL
   109 mEq/L
   141 mEq/L
   28.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2181-2-3**]  05:04 PM
                             [**2181-2-4**]  02:05 AM
   WBC
   12.1
   Hct
   28.9
   Plt
   268
   Cr
   3.2
   3.3
   Glucose
   76
   76
   Other labs: PT / PTT / INR:15.5/35.2/1.4, Differential-Neuts:84.6 %,
   Lymph:9.7 %, Mono:3.3 %, Eos:2.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   85 y/o M w/ Renal failure on [**Hospital 1371**] transferred to ICU for hypotension and
   fever, s/p G-tube placement and cystoscopy, now with BP at baseline on
   vanc/zosyn/fluconazole
   .
   # Resolved Hypotension: Fluid responsive, and dropped BP with morphine
   suggesting under resuscitation from volume.  Multiple possible
   infectious sources including intraabdominal, urosepsis and necrotic
   toe.  Has been hospitalized for some time so would be concerned for
   resistant GNR's.  EF somewhat depressed on last echo, but without overt
   signs of heart failure c/w cardiogenic hypotension.  Patient
s pressure
   came up to MAP>60 and SBP>90 with NS 250cc X4 and lactate trending
   downward. Pressures on admission were 88/56 and pressures are currently
   higher., patient is mentating fine, urine output is not useful since HD
   patient, and HR came down from 110 to 80s.
   .
   # Sepsis: Patient no longer hypotensive. Urine source probable, also
   consider intraabdominal or SSTI as above.  Leukocytosis resolving.  BPs
   intermittently low but responsive to fluids thus far. Patient is
   responding to vanc/zosyn. Patient continues to have intraabdominal
   fluid collection, will consider as source if patient respikes.
   - f/u urine, blood, other culture data.
   - Vanc and zosyn for empiric coverage.
   .
   # Pneumoperitoneum: s/p PEG with continued pneumoperitoneum and tense
   abdomen.  Surgery followed the patient and CT with GI contrast did not
   show any evidence of leak from the G-tube. Surgery saw the patient on
   [**2-4**] and confirmed that the G-tube was okay to use.
   -
   # ARF with CKD.  Now on HD.  Tunnelled line in place.
   - Hold on HD today given instability. Should get HD [**2-5**].
   - Consider CVVH in next 1-2 days if unable to safely have complete HD
   sessions given hypotension.
   - vanc dosed via HD protocol
   .
   # Hematuria with difficult foley placement: Leaking around foley.
   Urology following.
   - Would not replace foley
   - Treat through UTI.
   - If clots call urology.
   - continue fluconazole for treatment of urinary yeast.
   .
   # LE Wounds: Necrotic toes, local wound care.  Does not have evidence
   of superinfection/wet gangrene currently.
   - f/u vascular rec's
   .
   # Seizures: likely from SDH.
   - cont keppra
   .
   # Large subdural hematoma: As per HPI.  CT head if any change in
   neurological status.
   .
   # DVT: H/o prior DVT w/ IVC filter. Developed SDH in the setting of
   heparin gtt.
   - continue to hold anticoagulation
   .
   # Anemia: Improved post-transfusion, continue to trend.  Some concern
   for bleeding on CT a/p but lower on differential for current
   hypotension.  Appropriate bump to transfusion.
   FEN
 G tube okay to use, will resume tube feeds, placed back on PO
   meds
   PPX
 HSQ [**Hospital1 7**], PPI
   Dispo
 stable for floor, callout now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-3**] 11:52 AM
   20 Gauge - [**2181-2-3**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-04 09:18:00 Physician Attending Progress Note
Chief Complaint: fever, hypotension, abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   abd CT did not show g-tube leak
   lactate decreasing
   BP stable
   Abd pain improved
   24 Hour Events:
 EKG - At [**2181-2-3**] 11:46 AM
 DIALYSIS CATHETER - START [**2181-2-3**] 11:52 AM
 BLOOD CULTURED - At [**2181-2-3**] 05:15 PM
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-2-3**] 08:16 PM
   Piperacillin - [**2181-2-4**] 08:02 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2181-2-3**] 11:46 AM
   Morphine Sulfate - [**2181-2-3**] 11:46 AM
   Pantoprazole (Protonix) - [**2181-2-3**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2181-2-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2181-2-4**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 35.6
C (96
   HR: 85 (83 - 133) bpm
   BP: 106/60(69) {83/56(63) - 149/91(107)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,410 mL
                                                                    352 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                    270 mL
                                                                    110 mL
   Urine:
                                                                    270 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,140 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 2 LPM
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Non-tender, firm
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   268 K/uL
   76 mg/dL
   3.3 mg/dL
   22 mEq/L
   4.8 mEq/L
   44 mg/dL
   109 mEq/L
   141 mEq/L
   28.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2181-2-3**]  05:04 PM
                             [**2181-2-4**]  02:05 AM
   WBC
   12.1
   Hct
   28.9
   Plt
   268
   Cr
   3.2
   3.3
   Glucose
   76
   76
   Other labs: PT / PTT / INR:15.5/35.2/1.4, Differential-Neuts:84.6 %,
   Lymph:9.7 %, Mono:3.3 %, Eos:2.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   free abdominal air and left psoas collection - abd CT reassuring,
   surgery following, on vanco + zosyn
   tachycardia - improved
   hypotension - resolved, likely related to abdominal process
   foot ischemia - local wound care
   DVT - IVC filter in place
   CVA, SDH - no active issues though aphasic and bed bound
   bladder outflow obstruction - foley replaced 2 days ago
   UTI - on antibiotics
   Seizures
 on kepra
   ESRD
 HD likely tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-3**] 11:52 AM
   20 Gauge - [**2181-2-3**] 08:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor

2181-02-05 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-4**] Events:
   - started using G tube per [**Doctor First Name 213**] recs, meds changed to PO
   - somewhat hypotensive mid morning, did not call out
   - BPs stabalized with 2 L IVF over course of day
   - plan for HD tomorrow per renal
   - intermittent belly pain tx with morphine
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-2-3**] 08:16 PM
   Piperacillin - [**2181-2-5**] 01:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-4**] 08:00 PM
   Morphine Sulfate - [**2181-2-5**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-5**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.5
C (95.9
   HR: 89 (66 - 92) bpm
   BP: 103/47(62) {75/47(56) - 140/103(127)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,892 mL
                                                                    404 mL
   PO:
             TF:
                                                                    202 mL
                                                                    228 mL
   IVF:
                                                                  2,540 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    235 mL
                                                                     95 mL
   Urine:
                                                                    235 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,657 mL
                                                                    309 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   HD line site benign, no erythema/drainage
   Abdominal: No(t) Soft, No(t) Bowel sounds present, No(t) Distended,
   Tender: , + guarding especially in epigastrium.  Gtube site appears
   benign, no drainage.  Denies pain but appears tender to palpation with
   grimacing.
   Extremities:, Left: 2+ edemat, dry gangrene of RLE toes
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   296 K/uL
   9.7 g/dL
   93 mg/dL
   3.5 mg/dL
   20 mEq/L
   4.8 mEq/L
   51 mg/dL
   108 mEq/L
   142 mEq/L
   29.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2181-2-3**]  05:04 PM
                             [**2181-2-4**]  02:05 AM
                             [**2181-2-4**]  03:20 PM
                             [**2181-2-5**]  05:02 AM
   WBC
   12.1
   10.1
   Hct
   28.9
   27.1
   29.2
   Plt
   268
   296
   Cr
   3.2
   3.3
   3.5
   Glucose
   76
   76
   93
   Other labs: PT / PTT / INR:14.6/32.3/1.3, Differential-Neuts:84.6 %,
   Lymph:9.7 %, Mono:3.3 %, Eos:2.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.6
   mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   85 y/o M w/ Renal failure on [**Hospital 1371**] transferred to ICU for hypotension and
   fever, s/p G-tube placement and cystoscopy, now with BP at baseline on
   vanc/zosyn/fluconazole
   .
   # Resolved Hypotension: Fluid responsive, and dropped BP with morphine
   suggesting under resuscitation from volume.  Multiple possible
   infectious sources including intraabdominal, urosepsis and necrotic
   toe.  Has been hospitalized for some time so would be concerned for
   resistant GNR's.  EF somewhat depressed on last echo, but without overt
   signs of heart failure c/w cardiogenic hypotension.  Patient
s pressure
   came up to MAP>60 and SBP>90 with NS 250cc X4 and lactate trending
   downward. Pressures on admission were 88/56 and pressures are currently
   higher., patient is mentating fine, urine output is not useful since HD
   patient, and HR came down from 110 to 80s.
   .
   # Sepsis: Patient no longer hypotensive. Urine source probable, also
   consider intraabdominal or SSTI as above.  Leukocytosis resolving.  BPs
   intermittently low but responsive to fluids thus far. Patient is
   responding to vanc/zosyn. Patient continues to have intraabdominal
   fluid collection, will consider as source if patient respikes.
   - f/u urine, blood, other culture data.
   - Vanc and zosyn for empiric coverage.
   .
   # Pneumoperitoneum: s/p PEG with continued pneumoperitoneum and tense
   abdomen.  Surgery followed the patient and CT with GI contrast did not
   show any evidence of leak from the G-tube. Surgery saw the patient on
   [**2-4**] and confirmed that the G-tube was okay to use.
   -
   # ARF with CKD.  Now on HD.  Tunnelled line in place.
   - Hold on HD today given instability. Should get HD [**2-5**].
   - Consider CVVH in next 1-2 days if unable to safely have complete HD
   sessions given hypotension.
   - vanc dosed via HD protocol
   .
   # Hematuria with difficult foley placement: Leaking around foley.
   Urology following.
   - Would not replace foley
   - Treat through UTI.
   - If clots call urology.
   - continue fluconazole for treatment of urinary yeast.
   .
   # LE Wounds: Necrotic toes, local wound care.  Does not have evidence
   of superinfection/wet gangrene currently.
   - f/u vascular rec's
   .
   # Seizures: likely from SDH.
   - cont keppra
   .
   # Large subdural hematoma: As per HPI.  CT head if any change in
   neurological status.
   .
   # DVT: H/o prior DVT w/ IVC filter. Developed SDH in the setting of
   heparin gtt.
   - continue to hold anticoagulation
   .
   # Anemia: Improved post-transfusion, continue to trend.  Some concern
   for bleeding on CT a/p but lower on differential for current
   hypotension.  Appropriate bump to transfusion.
   FEN
 G tube okay to use, will resume tube feeds, placed back on PO
   meds
   PPX
 HSQ [**Hospital1 7**], PPI
   Dispo
 stable for floor, callout now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2181-2-5**] 01:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-3**] 11:52 AM
   20 Gauge - [**2181-2-3**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-06 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-5**] Events:
   - Surgery signed off
   - Urology recs in d/c worksheet -> f/u with Dr. [**Last Name (STitle) **] in two weeks,
   finish two-week course of antifungals from last urine culture
   - Order for PICC/Midline placed, should get by [**2-6**]
   - Screened for rehab bed, likely d/c [**2-6**]
 EKG - At [**2181-2-6**] 05:38 AM
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-2-3**] 08:16 PM
   Piperacillin - [**2181-2-5**] 08:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-5**] 08:07 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-6**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 90 (82 - 112) bpm
   BP: 102/72(79) {85/39(52) - 148/132(118)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,224 mL
                                                                    495 mL
   PO:
             TF:
                                                                  1,344 mL
                                                                    384 mL
   IVF:
                                                                    640 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    215 mL
                                                                     20 mL
   Urine:
                                                                    215 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,009 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   254 K/uL
   8.8 g/dL
   129 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   36 mg/dL
   107 mEq/L
   140 mEq/L
   27.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2181-2-3**]  05:04 PM
                             [**2181-2-4**]  02:05 AM
                             [**2181-2-4**]  03:20 PM
                             [**2181-2-5**]  05:02 AM
                             [**2181-2-6**]  02:46 AM
   WBC
   12.1
   10.1
   9.5
   Hct
   28.9
   27.1
   29.2
   27.0
   Plt
   [**Telephone/Fax (3) 5949**]
   Cr
   3.2
   3.3
   3.5
   2.5
   Glucose
   76
   76
   93
   129
   Other labs: PT / PTT / INR:14.5/31.1/1.3, Differential-Neuts:84.6 %,
   Lymph:9.7 %, Mono:3.3 %, Eos:2.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-3**] 11:52 AM
   20 Gauge - [**2181-2-3**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-02-06 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-5**] Events:
   - Surgery signed off
   - Urology recs in d/c worksheet -> f/u with Dr. [**Last Name (STitle) **] in two weeks,
   finish two-week course of antifungals from last urine culture
   - Order for PICC/Midline placed, should get by [**2-6**]
   - Screened for rehab bed, likely d/c [**2-6**]
 EKG - At [**2181-2-6**] 05:38 AM
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-2-3**] 08:16 PM
   Piperacillin - [**2181-2-5**] 08:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-5**] 08:07 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-6**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 90 (82 - 112) bpm
   BP: 102/72(79) {85/39(52) - 148/132(118)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,224 mL
                                                                    758 mL
   PO:
             TF:
                                                                  1,344 mL
                                                                    646 mL
   IVF:
                                                                    640 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    215 mL
                                                                     20 mL
   Urine:
                                                                    215 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,009 mL
                                                                    738 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   HD line site benign, no erythema/drainage
   Abdominal: No(t) Soft, No(t) Bowel sounds present, No(t) Distended,
   Tender: , + guarding especially in epigastrium.  Gtube site appears
   benign, no drainage.  Denies pain but appears tender to palpation with
   grimacing.
   Extremities:, Left: 2+ edemat, dry gangrene of RLE toes
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   254 K/uL
   8.8 g/dL
   129 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   36 mg/dL
   107 mEq/L
   140 mEq/L
   27.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2181-2-3**]  05:04 PM
                             [**2181-2-4**]  02:05 AM
                             [**2181-2-4**]  03:20 PM
                             [**2181-2-5**]  05:02 AM
                             [**2181-2-6**]  02:46 AM
   WBC
   12.1
   10.1
   9.5
   Hct
   28.9
   27.1
   29.2
   27.0
   Plt
   [**Telephone/Fax (3) 5949**]
   Cr
   3.2
   3.3
   3.5
   2.5
   Glucose
   76
   76
   93
   129
   Other labs: PT / PTT / INR:14.5/31.1/1.3, Differential-Neuts:84.6 %,
   Lymph:9.7 %, Mono:3.3 %, Eos:2.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   85 y/o M w/ Renal failure on [**Hospital 1371**] transferred to ICU for hypotension and
   fever, s/p G-tube placement and cystoscopy, now with BP at baseline on
   vanc/zosyn/fluconazole
   .
   # Resolved Hypotension: Fluid responsive, and dropped BP with morphine
   suggesting under resuscitation from volume.  Multiple possible
   infectious sources including intraabdominal, urosepsis and necrotic
   toe.  Has been hospitalized for some time so would be concerned for
   resistant GNR's.  EF somewhat depressed on last echo, but without overt
   signs of heart failure c/w cardiogenic hypotension.
   - tx with vanco zosyn for sepsis, although no source found; continue to
   f/u cultures; end date [**2-12**]
   - relative hypotension likely normal autonomic dysregulation in
   chronically ill dialysis patient
   .
   # Sepsis: Patient no longer hypotensive. Urine source probable, also
   consider intraabdominal or SSTI as above.  Leukocytosis resolving.  BPs
   intermittently low but responsive to fluids thus far. Patient is
   responding to vanc/zosyn. Patient continues to have intraabdominal
   fluid collection, will consider as source if patient respikes.
   - Vanc and zosyn for empiric coverage since no obvious source and
   patient responding well, see above for course (2 wk total).
   .
   # SVT
 pt with intermittent SVT to 140s, asymptomatic, breaks with
   vagal maneuvers
   - lytes checked and WNL
   - continue to monitor on telemetry
   - started low dose verapimil if BP tolerates
   .
   # Pneumoperitoneum: s/p PEG with continued pneumoperitoneum and tense
   abdomen.  Surgery followed the patient and CT with GI contrast did not
   show any evidence of leak from the G-tube. Surgery saw the patient on
   [**2-4**] and confirmed that the G-tube was okay to use.
   - likely not source of infection
   - reaching goal feeds, [**Doctor First Name 213**] signed off
   -
   # ARF with CKD.  Now on HD.  Tunnelled line in place.
   - HD yesterday, was run even, tolerated well
   - vanc dosed via HD protocol
   .
   # Hematuria with difficult foley placement: Leaking around foley.
   Urology following.
   - Would not replace foley, was placed with cystoscopy
   - Treat through UTI.
   - If clots call urology, otherwise plan is for urology follow up as
   outpatient in two weeks.
   - continue fluconazole for treatment of urinary yeast
 plan for 2
   weeks fo fluconazole.
   .
   # LE Wounds: Necrotic toes, local wound care.  Does not have evidence
   of superinfection/wet gangrene currently.
   - f/u vascular rec's
   .
   # Seizures: likely from SDH.
   - cont keppra
   .
   # Large subdural hematoma: As per HPI.  CT head if any change in
   neurological status, has been stable.
   .
   # DVT: H/o prior DVT w/ IVC filter. Developed SDH in the setting of
   heparin gtt.
   - continue to hold anticoagulation
   .
   # Anemia: Improved post-transfusion, continue to trend.  Some concern
   for bleeding on CT a/p but lower on differential for current
   hypotension.  Appropriate bump to transfusion.
   - Hct stable
   # FEN
 G tube okay to use, will resume tube feeds, placed back on PO
   meds
   # Access
 midline placed for access at rehab
   # PPX
 HSQ [**Hospital1 7**], PPI
   # Code - full
   # Dispo
 stable for rehab, can be discharged if stable after HD and
   access placed
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2181-2-6**] 06:21 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-3**] 11:52 AM
   20 Gauge - [**2181-2-3**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of resident
s history and exam. Agree
   substantially with assessment and plan. He is continuing to improve.
   Today, however, short runs of SVT w/o clear precipitant.  Have
   initiated verapamil.
   Time spent 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2181-2-6**] 17:54 ------

2181-02-07 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-6**] Events:
   patient went into SVT multiple times prior to when supposed to go to
   rehab
   started verapamil, no SVT since
   compliaining of pain over ischemic right foot, given morphine, does not
   look superinfected
   HD did not remove any fluid
 MIDLINE - START [**2181-2-6**] 08:44 AM
 EKG - At [**2181-2-6**] 12:35 PM
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2181-2-6**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-6**] 08:28 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-6**] 08:42 AM
   Morphine Sulfate - [**2181-2-7**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-7**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 95 (86 - 139) bpm
   BP: 113/66(89) {90/56(56) - 153/92(98)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,117 mL
                                                                    230 mL
   PO:
             TF:
                                                                  1,517 mL
                                                                    160 mL
   IVF:
                                                                    390 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    137 mL
                                                                     30 mL
   Urine:
                                                                    137 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,980 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   HD line site benign, no erythema/drainage
   Abdominal: No(t) Soft, No(t) Bowel sounds present, No(t) Distended,
   Tender: , + guarding especially in epigastrium.  Gtube site appears
   benign, no drainage.  Denies pain but appears tender to palpation with
   grimacing.
   Extremities:, Left: 2+ edemat, dry gangrene of RLE toes
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   249 K/uL
   9.5 g/dL
   121 mg/dL
   2.8 mg/dL
   24 mEq/L
   4.5 mEq/L
   42 mg/dL
   106 mEq/L
   140 mEq/L
   28.5 %
   9.4 K/uL
        [image002.jpg]
                             [**2181-2-3**]  05:04 PM
                             [**2181-2-4**]  02:05 AM
                             [**2181-2-4**]  03:20 PM
                             [**2181-2-5**]  05:02 AM
                             [**2181-2-6**]  02:46 AM
                             [**2181-2-6**]  06:10 PM
   WBC
   12.1
   10.1
   9.5
   9.4
   Hct
   28.9
   27.1
   29.2
   27.0
   28.5
   Plt
   [**Telephone/Fax (3) 5965**]49
   Cr
   3.2
   3.3
   3.5
   2.5
   2.8
   Glucose
   76
   76
   93
   129
   121
   Other labs: PT / PTT / INR:14.5/31.1/1.3, Differential-Neuts:84.6 %,
   Lymph:9.7 %, Mono:3.3 %, Eos:2.1 %, Lactic Acid:1.2 mmol/L, Ca++:6.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85 y/o M w/ Renal failure on [**Hospital 1371**] transferred to ICU for hypotension and
   fever, s/p G-tube placement and cystoscopy, now with BP at baseline on
   vanc/zosyn/fluconazole
   .
   # Resolved Hypotension: Fluid responsive, and dropped BP with morphine
   suggesting under resuscitation from volume.  Multiple possible
   infectious sources including intraabdominal, urosepsis and necrotic
   toe.  Has been hospitalized for some time so would be concerned for
   resistant GNR's.  EF somewhat depressed on last echo, but without overt
   signs of heart failure c/w cardiogenic hypotension.
   - tx with vanco zosyn for sepsis, although no source found; continue to
   f/u cultures; end date [**2-12**]
   - relative hypotension likely normal autonomic dysregulation in
   chronically ill dialysis patient
   .
   # Sepsis: Patient no longer hypotensive. Urine source probable, also
   consider intraabdominal or SSTI as above.  Leukocytosis resolving.  BPs
   intermittently low but responsive to fluids thus far. Patient is
   responding to vanc/zosyn. Patient continues to have intraabdominal
   fluid collection, will consider as source if patient respikes.
   - Vanc and zosyn for empiric coverage since no obvious source and
   patient responding well, see above for course (2 wk total).
   .
   # SVT
 pt with intermittent SVT to 140s, asymptomatic, breaks with
   vagal maneuvers
   - lytes checked and WNL
   - continue to monitor on telemetry
   - started low dose verapimil if BP tolerates
   .
   # Pneumoperitoneum: s/p PEG with continued pneumoperitoneum and tense
   abdomen.  Surgery followed the patient and CT with GI contrast did not
   show any evidence of leak from the G-tube. Surgery saw the patient on
   [**2-4**] and confirmed that the G-tube was okay to use.
   - likely not source of infection
   - reaching goal feeds, [**Doctor First Name 213**] signed off
   -
   # ARF with CKD.  Now on HD.  Tunnelled line in place.
   - HD yesterday, was run even, tolerated well
   - vanc dosed via HD protocol
   .
   # Hematuria with difficult foley placement: Leaking around foley.
   Urology following.
   - Would not replace foley, was placed with cystoscopy
   - Treat through UTI.
   - If clots call urology, otherwise plan is for urology follow up as
   outpatient in two weeks.
   - continue fluconazole for treatment of urinary yeast
 plan for 2
   weeks fo fluconazole.
   .
   # LE Wounds: Necrotic toes, local wound care.  Does not have evidence
   of superinfection/wet gangrene currently.
   - f/u vascular rec's
   .
   # Seizures: likely from SDH.
   - cont keppra
   .
   # Large subdural hematoma: As per HPI.  CT head if any change in
   neurological status, has been stable.
   .
   # DVT: H/o prior DVT w/ IVC filter. Developed SDH in the setting of
   heparin gtt.
   - continue to hold anticoagulation
   .
   # Anemia: Improved post-transfusion, continue to trend.  Some concern
   for bleeding on CT a/p but lower on differential for current
   hypotension.  Appropriate bump to transfusion.
   - Hct stable
   # FEN
 G tube okay to use, will resume tube feeds, placed back on PO
   meds
   # Access
 midline placed for access at rehab
   # PPX
 HSQ [**Hospital1 7**], PPI
   # Code - full
   # Dispo
 stable for rehab, can be discharged if stable after HD and
   access placed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-3**] 11:52 AM
   Midline - [**2181-2-6**] 08:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: